US07312241B2
(3,4-Dimethoxy-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone (3.3 g, 10 mmol), cyanomethylphosphonic acid diethyl ester (2.4 ml, 15 mmol) in anhydrous THF (50 ml), and potassium bis(trimethylsilyl)amide (3.0 g, 15 mmol) were treated in the same manner as described above for the synthesis of 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile. The crude was purified by flash column chromatography to give 3-(3,4-dimethoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile as a solid (2.7 g, 77%): mp, 119-121° C.; 1H NMR (DMSO-d6) 7.14-7.07 (m, 1H), 7.00-6.77 (m, 2H), 6.66 (d, J=3 Hz, 2H), 6.25 (s, 0.5H), 6.19 (s, 0.5H), 3.84-3.71 (m, 15H); 13C NMR (DMSO-d6) □ 161.38, 161.31, 152.65, 150.99, 150.14, 148.64, 148.18, 139.44, 138.44, 133.69, 132.47, 130.01, 128.88, 122.66, 122.43, 118.66, 118.62, 112.75, 111.31, 111.22, 110.94, 106.88, 106.27, 94.23, 93.53, 60.08, 56.02, 55.98, 55.60, 55.55, 55.48; Anal. Calcd. For C20H21NO5: C, 67.59; H, 5.96; N, 3.94. Found: C, 67.66; H, 5.98; N, 3.88.

reactant | (3,4-Dimethoxy-phenyl)-(3,4,5-trimethoxy-phenyl)-methanone | 10 mmol, 3.3 g | COC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C(=C1)OC)OC)OC | C18H20O6
reactant | cyanomethylphosphonic acid diethyl ester | 15 mmol, 2.4 ml | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | potassium bis(trimethylsilyl)amide | 15 mmol, 3.0 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 3-(3,5-dimethoxy-phenyl)-3-(3-methoxy-phenyl)-acrylonitrile | COC=1C=C(C=C(C1)OC)C(=CC#N)C1=CC(=CC=C1)OC | C18H17NO3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 3-(3,4-dimethoxy-phenyl)-3-(3,4,5-trimethoxy-phenyl)-acrylonitrile | 2.7 g, 77% | COC=1C=C(C=CC1OC)C(=CC#N)C1=CC(=C(C(=C1)OC)OC)OC | C20H21NO5
